US06355653B1
0.06 g (0.003 mol) sodium in 50 ml 2-phenylethanol were stirred overnight at 60° C. 0.2 g (0.0007 mol) 2-methanesulfinyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine added and stirring was continued at 160° C. for 16 hours. Evaporation of the solvent and chromatography on silicagel with ethylacetate gave 0.2 g (83%) 2-phenethyloxy-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine, MS m/e (%):332 (M+H+,100).

reactant | sodium | 0.003 mol, 0.06 g | [Na] | Na
reactant | 2-methanesulfinyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.0007 mol, 0.2 g | CS(=O)C1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C12H11N5OS
reactant | 2-phenylethanol | 50 ml | C1(=CC=CC=C1)CCO | C8H10O
product | 2-phenethyloxy-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.2 g, 83% | C(CC1=CC=CC=C1)OC1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C19H17N5O
